US08030311B2
Step 15.1: 4-[Methyl-(1-methyl-piperidin-4-yl)-amino]-3-trifluoromethyl-phenylamine
A suspension of methyl-(1-methyl-piperidin-4-yl)-(4-nitro-2-trifluoromethyl-phenyl)amine (0.812 g, 2.56 mmol) and Pd/C (10%) (0.200 g) in EtOH (20 mL) is stirred for 1 h 25 min at rt, under a hydrogen atmosphere. The reaction mixture is filtered through a pad of Celite and concentrated to afford the title compound as a yellow oil: ES-MS: 288.1 [M+H]+; single peak at tR=1.50 min (System 1).

reactant | methyl-(1-methyl-piperidin-4-yl)-(4-nitro-2-trifluoromethyl-phenyl)amine | 2.56 mmol, 0.812 g | CN(C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)C1CCN(CC1)C | C14H18F3N3O2
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 0.200 g | [Pd] | Pd
product | 4-[Methyl-(1-methyl-piperidin-4-yl)-amino]-3-trifluoromethyl-phenylamine | CN(C1=C(C=C(C=C1)N)C(F)(F)F)C1CCN(CC1)C | C14H20F3N3
